US05948916
In 1,3-dimethyl-2-imidazolidinone, were stirred 280 mg of 3-bromo-4-(2-chlorophenyl)-1,2,5-thiadiazole, and 180 mg of copper cyanide at 150° C. for 12 hours. After spontaneous cooling, the reaction mixture was poured into water, and the mixture was extracted with diethyl ether. The diethyl layer was washed with dilute sodium hydroxide solution and water, dried over anhydrous magnesium sulfate, and concentrated. The concentrate was purified by silica gel column chromatography to obtain 120 mg of 3-(2-chlorophenyl)-4-cyano-1,2,5-thiadiazole. The obtained 3-(2-chlorophenyl)-4-cyano-1,2,5-thiadiazole (120 mg) was heated with 6 mL of 5% sodium hydroxide solution and 2 mL of ethanol, and refluxed for one hour. After spontaneous cooling, the reaction mixture was poured into a dilute hydrochloric acid solution, and the mixture was extracted with diethyl ether. The diethyl ether layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The concentrate was purified by silica gel column chromatography to obtain 100 mg of 4-(2-chlorophenyl)-1,2,5-thiadiazole-3-carboxylic acid.

reactant | 3-bromo-4-(2-chlorophenyl)-1,2,5-thiadiazole | 280 mg | BrC1=NSN=C1C1=C(C=CC=C1)Cl | C8H4BrClN2S
reactant | copper cyanide | 180 mg | [Cu](C#N)C#N
reactant | water | O | H2O
solvent | 1,3-dimethyl-2-imidazolidinone | CN1C(N(CC1)C)=O | C5H10N2O
product | 3-(2-chlorophenyl)-4-cyano-1,2,5-thiadiazole | 120 mg | ClC1=C(C=CC=C1)C1=NSN=C1C#N | C9H4ClN3S
